US05455273
o) trans-N-acetyl-N-(4-fluorobenzyl)-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexylamine
from trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-(4-fluorobenzyl)-cyclohexylamine and acetylchloride. Colourless oil.

reactant | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-(4-fluorobenzyl)-cyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NCC1=CC=C(C=C1)F)CNC | C26H35FN2O2
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
product | trans-N-acetyl-N-(4-fluorobenzyl)-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexylamine | C(C)(=O)N(CC1=CC=C(C=C1)F)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)C(=O)OC(C)(C)C)CNC | C28H37FN2O3
